US07125876B2
To a stirred solution of 2-(4-fluorophenyl)-5-methoxybenzoxazole (2.89 g, 11.89 mmol) in methylene chloride (70 mL) was added BBr3 (1 M in CH2Cl2, 13.08 mL) dropwise in an ice-bath. The resulting mixture was stirred at room temperature for 36 hours. The solvent was evaporated under reduced pressure, and the residue was dissolved in ethyl acetate (150 mL). The organic layer was washed sequentially with saturated sodium bicarbonate and brine, dried over sodium sulfate, and evaporated under reduced pressure. Column chromatography (ethyl acetate: Hexanes=1:4) gave 2-(4-fluorophenyl)benzoxazol-5-ol as a white solid.

reactant | 2-(4-fluorophenyl)-5-methoxybenzoxazole | 11.89 mmol, 2.89 g | FC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)OC | C14H10FNO2
reactant | BBr3 | 1 M, 13.08 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-fluorophenyl)benzoxazol-5-ol | FC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)O | C13H8FNO2
